US06946467B2
1-Boc-4-[2-(4-pyridinyl)ethyl]piperazine (25 g, 85.8 mmol) was dissolved in methanol (100 mL) and was cooled to 0° C. Saturated HCl in methanol (100 mL) was added, and the mixture allowed to warm to room temperature for 1 h. The mixture was concentrated under vacuum and provided 1-[2-(4-pyridinyl)ethyl]piperazine hydrochloride (23.8 g, 92%) as a white solid.

reactant | 1-Boc-4-[2-(4-pyridinyl)ethyl]piperazine | 85.8 mmol, 25 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CCC1=CC=NC=C1 | C16H25N3O2
reactant | HCl | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 1-[2-(4-pyridinyl)ethyl]piperazine hydrochloride | 23.8 g, 92% | Cl.N1=CC=C(C=C1)CCN1CCNCC1 | InChI=1S/C11H17N3.ClH/c1-4-12-5-2-11(1)3-8-14-9-6-13-7-10-14;/h1-2,4-5,13H,3,6-10H2;1H
